US04138490
An aqueous solution (1.63 ml.) of 1M-sodium hydrogen carbonate was added to a stirred suspension of powdered α-(1-benzyl-1,2-dihydro-2-oxoquinol-4-yl)propionic acid (0.50 g.) in distilled water (3.37 ml.), and the mixture was stirred overnight, at ambient temperature. The solid which had formed was separated and dried in vacuo over phosphorus pentoxide to give sodium α-(1-benzyl-1,2-dihydro-2-oxoquinol-4-yl)propionate (0.52 g.) as its monohydrate (m.p., indefinite; C19H16NO3.H2O requires: C, 65.5; H, 4.9; N, 3.8; found: C, 65.7; H, 5.2; N, 4.0).

reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | α-(1-benzyl-1,2-dihydro-2-oxoquinol-4-yl)propionic acid | 0.50 g | C(C1=CC=CC=C1)N1C(C=C(C2=CC=CC=C12)C(C(=O)O)C)=O | C19H17NO3
solvent | water | 3.37 ml | O | H2O
product | sodium α-(1-benzyl-1,2-dihydro-2-oxoquinol-4-yl)propionate | 0.52 g | C(C1=CC=CC=C1)N1C(C=C(C2=CC=CC=C12)C(C(=O)[O-])C)=O.[Na+] | InChI=1S/C19H17NO3.Na/c1-13(19(22)23)16-11-18(21)20(12-14-7-3-2-4-8-14)17-10-6-5-9-15(16)17;/h2-11,13H,12H2,1H3,(H,22,23);/q;+1/p-1
